* D:\SRM & Docs\SEM 4\AEC Experiments\Mini Project\Mains Detector.asc
Q1 N006 N007 0 0 BC547B
Q2 N004 N005 N007 0 BC547B
Q3 N003 NearMainsWire N005 0 BC547B
D1 N001 N002 D
R1 N001 N003 1Meg
V1 N001 0 6
R2 N001 N004 100K
R3 N002 N006 220
I1 0 NearMainsWire 1nA
.model D D
.lib C:\Users\Gupta Ji\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Gupta Ji\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 5ms
* MAINS DETECTOR
* Designed by\nAyush Gupta
.backanno
.end
